data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_501011_0,[C:1]([C:2]([H:15])([H:16])[H:17])([C:3]([H:18])([H:19])[H:20])([N:8](/[C:4](=[N:5]/[H:12])[O:7][H:10])/[C:6](=[N:9]\[H:13])[H:14])[H:11]>>[C:1]([C:2]([H:15])([H:16])[H:17])([C:3]([H:18])([H:19])[H:20])(/[C:6](=[N:9]\[H:13])[H:14])/[N:8]=[C:4](\[N:5]([H:11])[H:12])[O:7][H:10],63.080065000001326
MR_178747_0,[C:1]([C:3]([N:2](/[C:5](=[C:6](/[N:4]([H:10])[H:11])[H:13])[H:12])[O:8][H:9])=[C:7]([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:1]([C:3]([C:6]([N:4]([H:10])[H:11])(/[C:5](=[N:2]/[O:8][H:9])[H:12])[H:13])=[C:7]([H:17])[H:18])([H:14])([H:15])[H:16],62.25364750001901
MR_153642_0,[C:1]([N:6]([C:7]([C:2]([H:14])([H:15])[H:16])=[O:10])[C:8]([C:3]([H:17])([H:18])[H:19])=[C:9]([C:4]([H:20])([H:22])[H:23])[C:5]([H:21])([H:24])[H:25])([H:11])([H:12])[H:13]>>[C:1](/[N:6]=[C:8](/[C:3]([H:17])([H:18])[H:19])[C:9]([C:4]([H:20])([H:22])[H:23])([C:5]([H:21])([H:24])[H:25])[C:7]([C:2]([H:14])([H:15])[H:16])=[O:10])([H:11])([H:12])[H:13],57.46707750001207
MR_697586_0,[C:1]([C:5]([C:2]([H:15])([H:16])[H:17])=[C:4]([C:3]([N:6]([H:9])[H:10])=[O:8])[N:7]([H:11])[H:12])([H:13])([H:14])[H:18]>>[C:1]([C:5]1([C:2]([H:15])([H:16])[H:17])[C:4]([N:7]([H:11])[H:12])=[C:3]([N:6]([H:9])[H:10])[O:8]1)([H:13])([H:14])[H:18],56.98515750001605
MR_12489_1,[C:1](/[C:3](=[C:4](\[C:2]([H:13])([H:14])[H:15])[N:5]([H:8])[H:9])[O:6][H:7])([H:10])([H:11])[H:12]>>[C:1]([C:3]1([H:7])[C:4]([C:2]([H:13])([H:14])[H:15])([N:5]([H:8])[H:9])[O:6]1)([H:10])([H:11])[H:12],55.40511249997465
MR_420896_1,[C:1]([N:2]([N:3](/[C:6](=[C:7](\[N:4]([H:10])[H:11])[H:14])[H:13])[H:9])[C:5](=[O:8])[H:12])([H:15])([H:16])[H:17]>>[C:1]([N:2]1[N:3]([H:9])[C@:6]1([C@@:7]([N:4]([H:10])[H:11])([C:5](=[O:8])[H:12])[H:14])[H:13])([H:15])([H:16])[H:17],71.83306250001706
MR_243417_0,[C:1]([C:2]([H:12])([H:13])[H:14])([N:5]([C:3]([H:15])([H:16])[H:17])[H:9])([C:6]([C:4]([H:18])([H:19])[H:20])=[O:8])[N:7]([H:10])[H:11]>>[C:1]1([C:2]([H:12])([H:13])[H:14])([N:7]([H:10])[H:11])[C:6]([C:4]([H:18])([H:19])[H:20])([N:5]([C:3]([H:15])([H:16])[H:17])[H:9])[O:8]1,40.77746000002392
MR_572388_1,[C:1]1([H:12])([H:13])[C:3]([N:4]([H:10])[H:11])([C:5](=[O:6])[H:14])[N:7]1[N:8]([C:2]([H:15])([H:16])[H:17])[H:9]>>[C:1](/[C:3]([N:4]([H:10])[H:11])=[C:5](\[O:6][H:9])[H:14])(/[N:7]=[N:8]/[C:2]([H:15])([H:16])[H:17])([H:12])[H:13],3.375322500038749
MR_473313_1,[C:1](/[C:3]([N:2](/[C:5](=[N:7]/[H:11])[H:12])[H:8])=[C:6](\[N:4]([H:9])[H:10])[H:13])([H:14])([H:15])[H:16]>>[C:1](/[C:3](=[N:2]/[H:8])[C@:6]([N:4]([H:9])[H:10])(/[C:5](=[N:7]/[H:11])[H:12])[H:13])([H:14])([H:15])[H:16],61.60732250001004
MR_524110_0,[N:1]1([N:2]([N:3]([H:7])[H:9])[N:4]([H:8])[H:10])[N:5]=[N:6]1>>[N:1]1=[N:5][N:6]1[N:2]([N:3]([H:7])[H:9])[N:4]([H:8])[H:10],33.489047500020064
MR_369167_0,[C:1]([C:4]([C:3]([C:2]([H:12])([H:13])[H:14])([O:7][H:10])[O:8][H:9])=[C:5]([H:15])[H:16])(=[O:6])[H:11]>>[C:1]([C:4]([C:3]([C:2]([H:12])([H:13])[H:14])=[O:8])=[C:5]([H:15])[H:16])([O:6][H:9])([O:7][H:10])[H:11],40.58230750001727
MR_596193_0,[C:1]([C:2]([C:6]([H:8])([H:15])[H:16])=[O:7])([N:3]([H:9])[H:10])([N:4]([H:11])[H:12])[N:5]([H:13])[H:14]>>[C:1]([C:2](=[C:6]([H:15])[H:16])[O:7][H:8])([N:3]([H:9])[H:10])([N:4]([H:11])[H:12])[N:5]([H:13])[H:14],66.68944500001984
MR_340957_0,[C:1]([C:3]([H:15])([H:16])[H:20])([C:4]([H:17])([H:18])[H:19])([C:6](/[C:2](=[N:8]/[H:13])[H:10])([C:5]([H:21])([H:22])[H:23])[C:9]([H:14])([H:24])[H:25])[N:7]([H:11])[H:12]>>[C:1]([C:2]([C:6]([C:5]([H:21])([H:22])[H:23])=[C:9]([H:24])[H:25])([N:8]([H:13])[H:14])[H:10])([C:3]([H:15])([H:16])[H:20])([C:4]([H:17])([H:18])[H:19])[N:7]([H:11])[H:12],68.0900249999793
MR_687789_0,[C:1]([N:2]([C:3]([N:5]([H:11])[H:12])=[C:7]([H:16])[H:17])[N:4]([H:9])[H:10])([C:6](=[O:8])[H:15])([H:13])[H:14]>>[C:1](/[N:2]=[N:4]/[H:10])([C:6]([C:3]([N:5]([H:11])[H:12])=[C:7]([H:16])[H:17])([O:8][H:9])[H:15])([H:13])[H:14],56.61681499998295
MR_693951_0,[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])([N:5]([C:2]([H:12])([H:13])[H:14])[O:7][N:6]([H:10])[H:11])[O:8][H:9]>>[C@:1]([C:3]([H:15])([H:16])[H:17])([N:5]([C:2]([H:12])([H:13])[H:14])[C:4]([H:18])([H:19])[H:20])([O:7][N:6]([H:10])[H:11])[O:8][H:9],67.60371249999437
MR_59943_2,[C:1](\[C:4]([C:3]([C:2]([C:5]([H:16])([H:17])[H:18])([O:8][H:12])[H:10])([C:6]([H:19])([H:20])[H:21])[H:11])([H:14])[H:15])(=[N:7]/[H:13])[H:9]>>[C:1]1([N:7]([H:12])[H:13])([H:9])[C:4]([H:14])([H:15])[C:3]([C:6]([H:19])([H:20])[H:21])([H:11])[C:2]([C:5]([H:16])([H:17])[H:18])([H:10])[O:8]1,41.11819249998405
MR_21186_2,[C@@:1]([C:2]([H:10])([H:11])[H:12])([N:3]([H:7])[H:8])([C:4](=[O:5])[H:9])[H:6]>>[C:1](\[C:2]([H:10])([H:11])[H:12])([N:3]([H:7])[H:8])=[C:4](\[O:5][H:6])[H:9],72.83643499999847
MR_635691_0,[C:1]12([H:6])[N:2]([N:3]1[H:5])[O:4]2>>[C:1](/[N:2]=[N:3]/[H:5])(=[O:4])[H:6],6.176482500011176
MR_85994_0,[C:1]1([C:2]([C:3]([H:12])([H:13])[H:14])([O:7][H:10])[H:11])([O:6][H:9])[C:4](=[O:8])[O:5]1>>[C:1](=[C:2](/[C:3]([H:12])([H:13])[H:14])[H:11])(\[O:5][C:4]([O:7][H:10])=[O:8])[O:6][H:9],64.14304999999274
